US08389513B2
The condensation of (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (intermediate XI-2) and 6-chloro-pyridazine-3-carboxylic acid following procedure I yielded the 6-chloro-pyridazine-3-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide which, after treatment with hydrochloric acid in dioxane (4N), evaporation and trituration with diethylether, gave the title compound as a white solid. MS (ISP): m/z=428.2 [M+H]+.

reactant | (R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(OC(C1(F)F)(C)C)N)C)F | C13H16F3N3O
reactant | 6-chloro-pyridazine-3-carboxylic acid | ClC1=CC=C(N=N1)C(=O)O | C5H3ClN2O2
product | 6-chloro-pyridazine-3-carboxylic acid [3-((R)-2-amino-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-amide | NC=1OC(C([C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C=1N=NC(=CC1)Cl)(F)F)(C)C | C18H17ClF3N5O2
